US07071175B1
To thiolacetic acid (15 mL) were added Et3N (1.5 g, 14.8 mmol) and ethyl 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-but-2-enoic acid ethyl ester (920 mg, 2.9 mmol) at room temperature. The reaction mixture was stirred at 40-45° C. for 7 days (additional thiolacetic acid (1.5 mL) was added to the reaction mixture every two days). The reaction mixture was cooled to room temperature and then diluted with EtOAc (50 mL). The organic layer was separated, washed with sat. NaHCO3, brine and dried. The combined organic layers were concentrated under reduced pressure. The crude was purified subsequently by three chromatography columns (CH2Cl2, EtOAc/hexane, 1:5 and acetone/hexane, 1:8) to afford 3-acetylsulfanyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-butyric acid ethyl ester as a diastereometric mixture (780 mg, 68%). The diastereomeric mixture was separated using preparative chiral chromatography according to the procedure described below to give the four isomers 3-acetylsulfanyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-butyric acid ethyl ester/A, 3-acetylsulfanyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-butyric acid ethyl ester/B, 3-acetylsulfanyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-butyric acid ethyl ester/C and 3-acetylsulfanyl-2-(6-tert-butoxycarbonylamino-pyridin-3-yl methyl)-butyric acid ethyl ester/D.

reactant | thiolacetic acid | 15 mL | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | Et3N | 14.8 mmol, 1.5 g | CCN(CC)CC | C6H15N
reactant | ethyl 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-but-2-enoic acid ethyl ester | 2.9 mmol, 920 mg | C(C)OC(C(=C(C)CC)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C19H28N2O4
reactant | thiolacetic acid | 1.5 mL | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-acetylsulfanyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-butyric acid ethyl ester | C(C)OC(C(C(C)SC(C)=O)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C19H28N2O5S
